US05763599
Triton B (2 ml, 35% in MeOH) was added to a mixture composed of 2-chloro-6-nitrotoluene (25 g, 146 mmol) and paraformaldehyde (1.9 g, 60 mmol) in DMSO (20 ml, synthesis quality, additionally dried for 2 d over molecular sieve 4 Å) and was stirred at 90° C. After 2 h, the reaction mixture was neutralized with a few drops of conc. HCl, diluted with H2O (50 ml) and extracted with EtOAc (4×150 ml). The combined organic phases were dried over MgSO4, filtered and concentrated under reduced pressure. The crude product was purified by sublimation in a high vacuum (p=0.06 torr, oil bath temperature 95° C.). 2-(2-chloro-6-nitrophenyl)ethanol (8.01 g, 66%) was obtained in the form of bright yellow crystals.

reactant | 2-chloro-6-nitrotoluene | 146 mmol, 25 g | ClC1=C(C(=CC=C1)[N+](=O)[O-])C | C7H6ClNO2
reactant | paraformaldehyde | 60 mmol, 1.9 g | C=O | CH2O
solvent | MeOH | CO | CH4O
solvent | DMSO | CS(=O)C | C2H6OS
product | 2-(2-chloro-6-nitrophenyl)ethanol | 8.01 g, 66% | ClC1=C(C(=CC=C1)[N+](=O)[O-])CCO | C8H8ClNO3
